US04508561
2-[1-(2-(2,2,2-trifluoroethoxy)-5-chlorophenyl)ethylsulfonyl]pyridine-N-oxide
In the same manner as Example 1, 2.00 g of 2-[2-(2,2,2-trifluoroethoxy)-5-chlorobenzylsulfonyl]pyridine-N-oxide, 230 mg of 55% sodium hydride and 740 mg of methyl iodide were mixed with 50 ml of dimethylformamide and the mixture was reacted, followed by the same after-treatment as in Example 1, whereby 1.43 g of Compound No. 27 of the present invention was obtained. The product was white crystals having a melting point of from 119° to 121° C.

reactant | 2-[2-(2,2,2-trifluoroethoxy)-5-chlorobenzylsulfonyl]pyridine-N-oxide | 2.00 g | FC(COC1=C(CS(=O)(=O)C2=[N+](C=CC=C2)[O-])C=C(C=C1)Cl)(F)F | C14H11ClF3NO4S
reactant | sodium hydride | 230 mg | [H-].[Na+]
reactant | methyl iodide | 740 mg | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[1-(2-(2,2,2-trifluoroethoxy)-5-chlorophenyl)ethylsulfonyl]pyridine-N-oxide | FC(COC1=C(C=C(C=C1)Cl)C(C)S(=O)(=O)C1=[N+](C=CC=C1)[O-])(F)F | C15H13ClF3NO4S
